US06774232B2
Anthranilic acid (1 part by weight) and 0.35 parts of NaOH were dissolved in approximately 5.5 parts of methyl isobutyl ketone (MIBK). With stirring, a solution of 0.7 parts of terephthaloyl dichloride in 3 parts of MIBK was slowly added at approximately 60 to 70° C. to the mixture. After the addition, the mixture was reacted at 60 to 70° C. for 2 hours. Water was distilled off and approximately 2 parts of acetic anhydride was added. The mixture was then reacted for 7 hours at reflux conditions. Water was then added, the batch was refluxed for 0.5 hours and then the MIBK was distilled off. Approximately 1 part of 50% NaOH solution was then added and the reaction mixture was cooled, filtered and dried to give 2,2′-p-phenylenebis(3,1-benzoxazin-4-one).

reactant | Anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | NaOH | [OH-].[Na+]
reactant | terephthaloyl dichloride | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | Water | O | H2O
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
product | 2,2′-p-phenylenebis(3,1-benzoxazin-4-one) | C1(=CC=C(C=C1)C1=NC2=C(C(O1)=O)C=CC=C2)C2=NC1=C(C(O2)=O)C=CC=C1 | C22H12N2O4
